US08168787B2
6-chloro-N-(2-methyl-5-nitrophenyl)-4-(3-pyridyl)-2-pyrimidine amine 7
Under inert atmosphere, 27 g 6-hydroxy-N-(2-methyl-5-nitrophenyl)-4-(3-pyridyl)-2-pyrimidine amine in 125 mL phosphorous oxychloride is suspended, and 11.5 g potassium carbonate is added portionwise. The mixture is heated to 50° C. for 6 hours under stirring. At the end of the reaction, the suspension is concentrated to residue, it is diluted with water, cooled, and the precipitate is filtrated. Upon drying, 26.6 g of product with HPLC purity of 80% (A %) is achieved, identified through LC-MS and 1H-NMR. Such raw product also contains a by-product, in an amount of about 15% (A %) which, during the following reduction reaction, still yields the desired product (4-methyl-N3-[4-(3-pyridinyl)-2-pyrimidinyl]-1,3-benzenediamine). The raw material, therefore, is employed as is in the example 13.

reactant | 6-hydroxy-N-(2-methyl-5-nitrophenyl)-4-(3-pyridyl)-2-pyrimidine amine | 27 g | OC1=CC(=NC(=N1)NC1=C(C=CC(=C1)[N+](=O)[O-])C)C=1C=NC=CC1 | C16H13N5O3
reactant | potassium carbonate | 11.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | phosphorous oxychloride | 125 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 6-chloro-N-(2-methyl-5-nitrophenyl)-4-(3-pyridyl)-2-pyrimidine amine | ClC1=CC(=NC(=N1)NC1=C(C=CC(=C1)[N+](=O)[O-])C)C=1C=NC=CC1 | C16H12ClN5O2
